US04629794
N-Carbobenzoxy-3-(1chloroethyl)indole
To a stirred solution of 1-(N-carbobenzoxy indol-3-yl)ethanol (1.02 g, 3.45 mmol) in CH2Cl2 (20 ml) at -78° C. under nitrogen was added thionyl chloride (0.63 ml, 8.62 mmol). After warming to room temperature and stirring for 2 hrs, the mixture was evaporated to a brown oil. This was dissolved in CHCl3, treated with activated carbon and filtered through a pad of Super Cel; the filtrate was evaporated to give 1.03 g (95%) of light brown oil: NMR (CDCl3) δ1.90 (3, d, CH3), 5.26 (1, q, CHCl), 5.33 (2, s, PhCH2), 7.20-7.85 (9, m, aromatic H's) 8.04 ppm (1, m, H-7). This material was relatively unstable, and therefore was used immediately without further purification (e.g. as in Example 13).

reactant | 1-(N-carbobenzoxy indol-3-yl)ethanol | 3.45 mmol, 1.02 g | C(=O)(OCC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C)O | C18H17NO3
reactant | thionyl chloride | 8.62 mmol, 0.63 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | N-Carbobenzoxy-3-(1chloroethyl)indole | C(=O)(OCC1=CC=CC=C1)N1C=C(C2=CC=CC=C12)C(C)Cl | C18H16ClNO2
